US07442708B2
N-{2-Methoxy-4-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]phenyl}methanesulphonamide
Obtained according to the same procedure as the compound of Example 207, by sulphonylation of (4-amino-3-methoxyphenyl)(1-methoxy-2-methylindolizin-3-yl)methanone with methanesulphonyl chloride. The product is purified by chromatography on a silica column, eluting with a toluene/ethyl acetate (7:3) mixture. A yellow powder is obtained.

reactant | (4-amino-3-methoxyphenyl)(1-methoxy-2-methylindolizin-3-yl)methanone | NC1=C(C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)OC)C)OC | C18H18N2O3
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-{2-Methoxy-4-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]phenyl}methanesulphonamide | COC1=C(C=CC(=C1)C(=O)C1=C(C(=C2C=CC=CN12)OC)C)NS(=O)(=O)C | C19H20N2O5S
